US09359367B2
Step 2: 4-(2-methylpiperazin-1-yl)butanenitrile hydrochloride
To a stirred solution of tert-butyl 4-(3-cyanopropyl)-3-methylpiperazine-1-carboxylate (1.3 g, 4.86 mmol) in diethyl ether (10 ml) was added hydrochloric acid (2 molar in ether, 10 ml, 20.00 mmol) at 0° C. The reaction mixture was stirred at room temperature for 5 h. Progress of the reaction was monitored by TLC. After completion of the reaction, the solvent was evaporated under reduced pressure and triturated with diethyl ether to yield the title compound 4-(2-methylpiperazin-1-yl)butanenitrile hydrochloride (1 g, 4.91 mmol, 24.54% yield)

reactant | tert-butyl 4-(3-cyanopropyl)-3-methylpiperazine-1-carboxylate | 4.86 mmol, 1.3 g | C(#N)CCCN1C(CN(CC1)C(=O)OC(C)(C)C)C | C14H25N3O2
reactant | hydrochloric acid | 20.00 mmol, 2 molar, 10 ml | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 4-(2-methylpiperazin-1-yl)butanenitrile hydrochloride | 4.91 mmol, 1 g, 24.54% yield | Cl.CC1N(CCNC1)CCCC#N | InChI=1S/C9H17N3.ClH/c1-9-8-11-5-7-12(9)6-3-2-4-10;/h9,11H,2-3,5-8H2,1H3;1H
